### PR TITLE
[Merged by Bors] - feat: introduce `ContinuousLinearMap.IsInvertible` and basic API

### PR DESCRIPTION
**Pull request by sgouezel**
To be used when defining the pullback of vector fields in #18396 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/Module/Basic.lean [hunk 1]
```diff
@@ -2272,34 +2272,153 @@ end ContinuousLinearEquiv
...
-variable [AddCommMonoid M₂] [Module R M₂]
-variable [AddCommMonoid M] [Module R M]
+  [AddCommMonoid M] [Module R M]
+  [AddCommMonoid M₂] [Module R M₂]
+  [AddCommMonoid M₃] [Module R M₃]
+
+/-- A continuous linear map is invertible if it is the forward direction of a continuous linear
+equivalence. -/
+def IsInvertible (f : M →L[R] M₂) : Prop :=
+  ∃ (A : M ≃L[R] M₂), A = f
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/Module/Basic.lean:2288]: Is this the kind of thing we *only* need for `ContinuousLinearMap`? I understand that for a lot of algebraic morphisms it can be phrased in terms of `Function.Bijective f`, but if this is a pattern that we might need more frequently for other morphism classes, then I wonder if it would be better to have some sort of generic machinery for `FunLike F R S` and `EquivLike E R S` that says:
```
def IsInvertible {F : Type*} {E R S : outParam (Type*)} (f : F) :=
   ∃ (e : E), ⇑e = f
```
Maybe it doesn't buy us anything because we have no `symm` or `trans` for `EquivLike`. Probably this comment is worthless.

File: Mathlib/Topology/Algebra/Module/Basic.lean [hunk 2]
```diff
@@ -2272,34 +2272,153 @@ end ContinuousLinearEquiv
...
+lemma IsInvertible.of_inverse {f : M →L[R] M₂} {g : M₂ →L[R] M}
+    (hf : f ∘L g = id R M₂) (hg : g ∘L f = id R M) :
+    f.IsInvertible := by
+  let A : M ≃L[R] M₂ :=
+  { f with
+    invFun := g
+    left_inv := by
+      intro x
+      have : (g ∘L f) x = x := by simp [hg]
+      simpa using this
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/Module/Basic.lean:2337]: untested, but it would be nice if this works here and elsewhere:
```suggestion
    left_inv := fun x => by simpa using congr($(hg) x)
```

File: Mathlib/Topology/Algebra/Module/Basic.lean [hunk 3]
```diff
@@ -2272,34 +2272,153 @@ end ContinuousLinearEquiv
...
+  · exact inverse_of_not_isInvertible h
+
+lemma IsInvertible.comp {g : M₂ →L[R] M₃} {f : M →L[R] M₂}
+    (hg : g.IsInvertible) (hf : f.IsInvertible) : (g ∘L f).IsInvertible := by
+  rcases hg with ⟨N, rfl⟩
+  rcases hf with ⟨M, rfl⟩
+  exact ⟨M.trans N, rfl⟩
+
+lemma IsInvertible.of_inverse {f : M →L[R] M₂} {g : M₂ →L[R] M}
+    (hf : f ∘L g = id R M₂) (hg : g ∘L f = id R M) :
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/Module/Basic.lean:2329]: I think you should just add a convenience constructor for `ContinuousLinearEquiv` with these hypotheses. I'm surprised we don't have it already. That will simplify the proof of this and the next lemma.

File: Mathlib/Topology/Algebra/Module/Basic.lean (hunk 1 above)
Comment (sgouezel) [reply Mathlib/Topology/Algebra/Module/Basic.lean:2306]: Yes, I wondered the same. But I don't think the design of `EquivLike` makes it possible to have something like that in a usable way, because of the lack of `symm`. I have to admit that, while I love `FunLike`, I am not completely convinced by `EquivLike` because of these shortcomings...

**Review by j-loreaux — COMMENTED** [review]
bors merge
